US07875618B2
6,8-Dihydroxy-3,4-dimethyl-1-(2-methylphenyl)-imidazo[1,5-a]quinoxaline
0.3 g 6,8-Dimethoxy-3,4-dimethyl-1-(2-methylphenyl)-imidazo[1,5-a]quinoxaline, 30 mL dichloromethane and 5 mL BBr3 were heated in a closed vessel for 3 hours at 130° C. After cooling the suspension was given in 250 mL ice-cooled aqueous potassium carbonate solution. After stirring for 30 min at pH 7-9 the precipitate was filtered off, washed with water and purified with silica gel, dichloromethane/methanol 9/1.

reactant | 6,8-Dimethoxy-3,4-dimethyl-1-(2-methylphenyl)-imidazo[1,5-a]quinoxaline | 0.3 g | COC1=C2N=C(C=3N(C2=CC(=C1)OC)C(=NC3C)C3=C(C=CC=C3)C)C | C21H21N3O2
reactant | BBr3 | 5 mL | B(Br)(Br)Br | BBr3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 6,8-Dihydroxy-3,4-dimethyl-1-(2-methylphenyl)-imidazo[1,5-a]quinoxaline | OC1=C2N=C(C=3N(C2=CC(=C1)O)C(=NC3C)C3=C(C=CC=C3)C)C | C19H17N3O2
